US04147805
A solution of 2,2-dimethylcapronitrile (10.0 g., 0.078 mole) in 100 ml. of ether is added slowly to a suspension of lithium aluminum hydride (6.0 g., 0.158 mole) in 200 ml. of ether while maintaining the reaction at 0°-5°. After stirring the reaction mixture for an additional 2 hr., at 0.5°, the mixture is hydrolyzed by sequentially adding 6.0 ml. of water, 6.0 ml. of 15% sodium hydroxide solution, and finally 18 ml. of water. The hydrolyzed mixture is stirred for an additional hour, filtered and the ether phase concentrated under reduced pressure. Distillation of residual material provides 2,2-dimethylhex-1-ylamine.

reactant | 2,2-dimethylcapronitrile | 0.078 mole, 10.0 g | CC(C#N)(CCCC)C | C8H15N
reactant | ether | CCOCC | C4H10O
reactant | lithium aluminum hydride | 0.158 mole, 6.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2,2-dimethylhex-1-ylamine | CC(CN)(CCCC)C | C8H19N
